US07037938B2
A solution of tert-butyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]propyl]-1,1′-biphenyl-4-carboxylic acid (90 mg) and 4N hydrochloride in dioxane (5.0 ml) was stirred at room temperature for 24 hours. The resultant solid was collected by filtration and dried to give 4′-[3-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-amino]propyl]-1,1′-biphenyl-4-carboxylic acid dihydrochloride (80 mg) as a white solid.

reactant | tert-butyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]amino]propyl]-1,1′-biphenyl-4-carboxylic acid | 90 mg | C(C)(C)(C)C1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)CCCN(C[C@@H](C=1C=NC=CC1)O)C(=O)OC(C)(C)C | C32H40N2O5
reactant | hydrochloride | 4N | Cl | ClH
solvent | dioxane | 5.0 ml | O1CCOCC1 | C4H8O2
product | 4′-[3-[[(2R)-2-hydroxy-2-(3-pyridyl)ethyl]-amino]propyl]-1,1′-biphenyl-4-carboxylic acid dihydrochloride | 80 mg | Cl.Cl.O[C@@H](CNCCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C=1C=NC=CC1 | InChI=1S/C23H24N2O3.2ClH/c26-22(21-4-2-14-24-15-21)16-25-13-1-3-17-5-7-18(8-6-17)19-9-11-20(12-10-19)23(27)28;;/h2,4-12,14-15,22,25-26H,1,3,13,16H2,(H,27,28);2*1H/t22-;;/m0../s1
